US03933470
Preparation of 3-Chloro-4-Hydroxycarbanilic Acid, Methyl Ester by Procedure 1 ##SPC5##
Powdered 4-amino-2-chlorophenol (210 grams, 1.46 moles) is added to a dry ethylacetate solution (2100 ml.) of phosgene (210 grams, 2.05 moles) and the mixture is stirred at 0°C. to 10°C. Slowly the reaction mixture is raised to reflux temperature after 1 hour. Further phosgene (20 grams) is passed through the solution during a one-half hour period, then the mixture is heated under reflux during another 30 minute period, cooled to 40°C., and rapidly filtered. The filtrate is evaporated under reduced pressure to a volume of 900 ml. An infrared spectrum of this oil has a peak at 2260 cm.-1 (N=C=O). The isocyanate solution is added to methanol (1.8 liters) with stirring, and the reaction is brought to reflux for 16 hours, then set aside at 20°C. for 48 hours. Evaporation of the reaction mixture affords a viscous oil. Addition of benzene (2 × 300 ml.) followed by evaporation causes the oil to solidify. The crude solid is vacuum dried, melting point 96°C. to 98°C., 250.5 grams (86%). Crystallization of a 5 gram sample from benzene (trace n-hexane) affords crystals, melting point 104°C. to 105°C., 2.76 grams (47%).

reactant | 4-amino-2-chlorophenol | 1.46 moles, 210 grams | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | ethylacetate | 2100 ml | C(C)OC(C)=O | C4H8O2
reactant | phosgene | 2.05 moles, 210 grams | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 20 grams | C(=O)(Cl)Cl | CCl2O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-Chloro-4-Hydroxycarbanilic Acid, Methyl Ester | ClC=1C=C(NC(OC)=O)C=CC1O | C8H8ClNO3
